US08084644B2
1-ethyl-2-methylpentyl N-phenylpropynthioimidate (0.44 g) was dissolved to chloroform (8 mL), chloroform (3 mL) solution of 4-fluorothiophenol (0.16 g) was added to the solution under ice-cooling, and then it was stirred for 18 hours at room temperature. The reaction mixture was concentrated under reduced pressure. The obtained residue was subjected to medium pressure HPLC (hexane/ethyl acetate=98/2) to obtain 1-ethyl-2-methylpentyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate (0.28 g) as pale yellow oil.

reactant | 1-ethyl-2-methylpentyl N-phenylpropynthioimidate | 0.44 g | C1(=CC=CC=C1)N=C(C#C)SC(C(CCC)C)CC | C17H23NS
reactant | 4-fluorothiophenol | 0.16 g | FC1=CC=C(C=C1)S | C6H5FS
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-ethyl-2-methylpentyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate | 0.28 g | FC1=CC=C(C=C1)SC=CC(SC(C(CCC)C)CC)=NC1=CC=CC=C1 | C23H28FNS2
